US04496568
(a) Preparation of 4-hydroxy-6-mesyl-4,5,6,7-tetrahydro thieno[2,3-c]pyridine (V): R1 =R2 =H; R3 =CH3
To a mixture of 4-hydroxy-4,5,6,7-tetrahydro-thieno-[2,3-c]pyridine hydrochloride (50 g; 0.26 mole), chloroform (200 ml) and saturated aqueous potassium carbonate solution (100 ml) is added dropwise a solution of methanesulfonyl chloride (30 g; 0.26 mole) in chloroform (50 ml), at room temperature and with vigorous mechanical stirring. Stirring is continued a further 2 hours at room temperature. After decantation, the chloroform phase is washed with dilute hydrochloric acid, then with water, and is dried over anhydrous sodium sulfate. Evaporation of the solvent, in vacuo, leaves crystals which are recrystallized from methanol. Light brown crystals; M.p.=140° C. (methanol); Yield: 76%.

reactant | 4-hydroxy-4,5,6,7-tetrahydro-thieno-[2,3-c]pyridine hydrochloride | 0.26 mole, 50 g | Cl.OC1C2=C(CNC1)SC=C2
reactant | potassium carbonate | 100 ml | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | 0.26 mole, 30 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-hydroxy-6-mesyl-4,5,6,7-tetrahydro thieno[2,3-c]pyridine | Yield: 76% | OC1C2=C(CN(C1)S(=O)(=O)C)SC=C2 | C8H11NO3S2
